US05610303
(E)-N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[4-(1-benzylpiperidin-4-yl)-2-butenoyl]aniline (Compound II-6 in Table 1)
30 ml of ethanol and 0.58 g of 4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine were added to 1.21 g of 4-[4-(1-benzylpiperidin-4-yl)-3-hydroxybutanoyl]aniline·trifluoroacetate, 1 ml of an ethanol solution of hydrochloric acid (containing 0.29 g of hydrochloric acid) was added thereto and the mixture was stirred under heating at 60° C. for 40 minutes. Then, a saturated sodium hydrogen carbonate aqueous solution was added thereto and the mixture was extracted with chloroform. After drying over anhydrous sodium sulfate, the solvent was removed by distillation under reduced pressure and the obtained residue was applied to silica gel column chromatography to obtain 0.40 g of the title compound as yellow powder.

reactant | 4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 0.58 g | ClC=1C2=C(N=CN1)CCC2 | C7H7ClN2
reactant | 4-[4-(1-benzylpiperidin-4-yl)-3-hydroxybutanoyl]aniline·trifluoroacetate | 1.21 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(CC(=O)C1=CC=C(N)C=C1)O.FC(C(=O)[O-])(F)F
reactant | hydrochloric acid | 0.29 g | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (E)-N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[4-(1-benzylpiperidin-4-yl)-2-butenoyl]aniline | 0.40 g | N1=CN=C(C2=C1CCC2)NC2=CC=C(C=C2)C(\C=C\CC2CCN(CC2)CC2=CC=CC=C2)=O | C29H32N4O
